US06350907B1
According to the method of Preparation 15 a), tert-butyl (3R)-3-({[({[(1S)-2-methoxy-1-phenylethyl]amino}carbonyl)-(1S)-2-methyl-1-propyl]amino}carbonyl)hex-5-enoate (from c) above) (1.08 g, 2.42 mmol) was reacted with 4-iodo-2-methyl-1-phenylbenzene (Preparation 29)(1.07 g, 3.63 mmol) under palladium catalysis at reflux in acetonitrile for 18 h. After being cooled, the mixture was diluted with ethyl acetate (200 mL) and washed sequentially with 5% aqueous citric acid (50 mL), saturated aqueous sodium bicarbonate (50 mL), saturated aqueous brine (50 mL), dried (Na2SO4) and concentrated under reduced pressure. The residue was purified by flash chromatography (gradient elution with dichloromethane:ethyl acetate=30:1 to 3:1) to give tert-butyl (3R, 5E)-3-({[({[(1S)-2-methoxy-1-phenylethyl]amino}carbonyl)-(1S)-2-methyl-1-propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hex-5-enoate as a pale brown foam (980 mg, 66%).

reactant | tert-butyl (3R)-3-({[({[(1S)-2-methoxy-1-phenylethyl]amino}carbonyl)-(1S)-2-methyl-1-propyl]amino}carbonyl)hex-5-enoate | COC[C@H](C1=CC=CC=C1)NC(=O)[C@H](C(C)C)NC(=O)[C@@H](CC(=O)OC(C)(C)C)CC=C | C25H38N2O5
reactant | 4-iodo-2-methyl-1-phenylbenzene | 3.63 mmol, 1.07 g | IC1=CC(=C(C=C1)C1=CC=CC=C1)C | C13H11I
solvent | acetonitrile | C(C)#N | C2H3N
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl (3R, 5E)-3-({[({[(1S)-2-methoxy-1-phenylethyl]amino}carbonyl)-(1S)-2-methyl-1-propyl]amino}carbonyl)-6-[3-methyl-(4-phenyl)phenyl]hex-5-enoate | 980 mg, 66% | COC[C@H](C1=CC=CC=C1)NC(=O)[C@H](C(C)C)NC(=O)[C@@H](CC(=O)OC(C)(C)C)C\C=C\C1=CC(=C(C=C1)C1=CC=CC=C1)C | C38H48N2O5
